US04806538
A mixture of N-tert-butoxycarbonyl-1-methyl-D-tryptophyl-D-methionine ethyl ester (2.4 g), formic acid (25 ml), and saturated solution of hydrogen chloride in formic acid (10 ml) was stirred on an ice bath for 1.5 hours. After removal of the solvent, the crude residue was dissolved in ethanol (20 ml) and saturated ammonia in ethanol (10 ml) was added. The resulting mixture was stirred for 16 hours at room temperature and precipitated mass was collected, washed with ethanol, and dried. Recrystallization from ethanol gave (3R,6R)-3-(1-methylindol-3-ylmethyl)-6-(2-methylthioethyl)piperazine-2,5-dione (1.16 g).

reactant | N-tert-butoxycarbonyl-1-methyl-D-tryptophyl-D-methionine ethyl ester | 2.4 g | C(C)OC([C@H](NC([C@H](NC(=O)OC(C)(C)C)CC1=CN(C2=CC=CC=C12)C)=O)CCSC)=O | C24H35N3O5S
reactant | hydrogen chloride | Cl | ClH
solvent | formic acid | 10 ml | C(=O)O | CH2O2
solvent | formic acid | 25 ml | C(=O)O | CH2O2
product | (3R,6R)-3-(1-methylindol-3-ylmethyl)-6-(2-methylthioethyl)piperazine-2,5-dione | 1.16 g | CN1C=C(C2=CC=CC=C12)C[C@@H]1C(N[C@@H](C(N1)=O)CCSC)=O | C17H21N3O2S
